US07700589B2
60f) (R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A mixture of 150 mg (0.30 mmol) (R)-1-carboxy-2-(3,4-diethyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 98 mg (0.30 mmol) TBTU, 0.2 mL (1.1 mmol) ethyldiisopropylamine and 15 mL THF as well as 3 mL DMF was stirred for 1 h at RT, then combined with 56 mg (0.30 mmol) 1-(1-methyl-piperidin-4-yl)-piperazin and stirred for 2 h. The reaction mixture was combined with 30 mL of a semisaturated NaHCO3 solution and extracted with 30 mL EtOAc. The organic phase was dried, evaporated down under reduced pressure and the residue was purified by chromatography on silica gel. The product fractions were evaporated down under reduced pressure, the residue was triturated with diisopropylether, suction filtered and dried.

reactant | (R)-1-carboxy-2-(3,4-diethyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.30 mmol, 150 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)CC)CC)C(=O)O)C=CC=C2 | C28H35N3O5
reactant | TBTU | 0.30 mmol, 98 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 1.1 mmol, 0.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(1-methyl-piperidin-4-yl)-piperazin | 0.30 mmol, 56 mg | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C)CC1=CC(=C(C=C1)CC)CC)C=CC=C2 | C38H54N6O4
